US04507498
A mixture of 6.0 g of 6-(4-acetyl-3-hydroxy-2-propylphenoxy)hexanoic acid methyl ester, 19 ml of 1,3-dibromopropane and 2.0 g of anhydrous potassium carbonate in 175 ml of anhydrous acetone was stirred at reflux for 52 hours. The reaction mixture was concentrated in vacuo to give 8.1 g (98% yield) of 6-[4-acetyl-3-(3-bromopropoxy)-2-propylphenoxy]hexanoic acid methyl ester as an oil.

reactant | 6-(4-acetyl-3-hydroxy-2-propylphenoxy)hexanoic acid methyl ester | 6.0 g | COC(CCCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C18H26O5
reactant | 1,3-dibromopropane | 19 ml | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 175 ml | CC(=O)C | C3H6O
product | 6-[4-acetyl-3-(3-bromopropoxy)-2-propylphenoxy]hexanoic acid methyl ester | 8.1 g, 98% yield | COC(CCCCCOC1=C(C(=C(C=C1)C(C)=O)OCCCBr)CCC)=O | C21H31BrO5
